US07906546B2
Analogously to example 1.2, from a racemic mixture of diastereomers of 2-methanesulfonyl-2-(3-oxo-cyclohexyl)-propionic acid methyl ester and (4-bromo-phenyl)-hydrazine hydrochloride were prepared the following 2 racemic diastereomers which could be separated by column chromatography to yield (RS,SR)-2-(6-bromo-2,3,4,9-tetrahydro-1H-carbazol-2-yl)-2-methanesulfonyl-propionic acid methyl ester, MS: 414 (MH+,1Br), and (RR,SS)-2-(6-bromo-2,3,4,9-tetrahydro-1H-carbazol-2-yl)-2-methanesulfonyl-propionic acid methyl ester, MS: 414 (MH+,1Br).

reactant | 2-methanesulfonyl-2-(3-oxo-cyclohexyl)-propionic acid methyl ester | COC(C(C)(C1CC(CCC1)=O)S(=O)(=O)C)=O | C11H18O5S
reactant | (4-bromo-phenyl)-hydrazine hydrochloride | Cl.BrC1=CC=C(C=C1)NN
product | (RS,SR)-2-(6-bromo-2,3,4,9-tetrahydro-1H-carbazol-2-yl)-2-methanesulfonyl-propionic acid methyl ester | COC(C(C)(S(=O)(=O)C)C1CC=2NC3=CC=C(C=C3C2CC1)Br)=O | C17H20BrNO4S
